US08563577B2
Preparation of 2-phenyl-2-(o-tolylamino)acetic acid hydrochloride (I22)
Ethyl 2-bromo-2-phenylacetate (0.28 ml, 1.64 mmol), ortho-toluidine (0.26 ml, 2.47 mmol), and DIPEA (0.43 ml, 2.47 mmol) were dissolved in acetonitrile (5 ml) and stirred under microwave irradiation at 100° C. for 1 hours (Conversion complete by UPLC/MS-UV). Lithium hydroxide hydrate (207 mg, 4.94 mmol) and water (3 ml) were added, and the mixture was stirred at room temperature for 16 hours. 4M HCl in dioxane was added until pH was about 1, then the solvents were evaporated, the residue was suspended in water, sonicated, and cooled at 0° C., and the resulting solid was recovered by filtration and dried under vacuum to get intermediate I22 (290 mg, 63% yield).

reactant | Ethyl 2-bromo-2-phenylacetate | 1.64 mmol, 0.28 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | ortho-toluidine | 2.47 mmol, 0.26 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | DIPEA | 2.47 mmol, 0.43 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Lithium hydroxide hydrate | 4.94 mmol, 207 mg | O.[OH-].[Li+]
reactant | HCl | 4M | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 2-phenyl-2-(o-tolylamino)acetic acid hydrochloride | 63% yield | Cl.C1(=CC=CC=C1)C(C(=O)O)NC1=C(C=CC=C1)C | InChI=1S/C15H15NO2.ClH/c1-11-7-5-6-10-13(11)16-14(15(17)18)12-8-3-2-4-9-12;/h2-10,14,16H,1H3,(H,17,18);1H
